US07442805B2
Ethyl 1-benzhydryl-5-nitro-3-phenyl-1H-indole-2-carboxylate was prepared from ethyl 5-nitro-3-phenyl-1H-indole-2-carboxylate and bromodiphenylmethane according to the procedure of Example 1 Step 1 as a yellowish solid: 1H NMR (CDCl3) δ 0.92 (t, J=7.1 Hz, 3H, 4.08 (q, J=7.1 Hz, 2H, 6.86 (d, J=9.4 Hz, 1H, 7.20-7.50 (m, 15H, 7.89 (dd, J=9.3, 2.3 Hz, 1H, 7.97 (s, 1H, 8.47 (d, J=2.3 Hz, 1H, MS (ESI) m/z 477 (MH+); HRMS calcd for C30H25N2O4: 477.1812; found (ESI+): 477.1808.

reactant | ethyl 5-nitro-3-phenyl-1H-indole-2-carboxylate | [N+](=O)([O-])C=1C=C2C(=C(NC2=CC1)C(=O)OCC)C1=CC=CC=C1 | C17H14N2O4
reactant | bromodiphenylmethane | BrC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Br
product | Ethyl 1-benzhydryl-5-nitro-3-phenyl-1H-indole-2-carboxylate | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)[N+](=O)[O-])C1=CC=CC=C1)C(=O)OCC | C30H24N2O4
